US05268388
Step A: methyl 6-fluoro-1,2,3,4-tetrahydro-1-oxo-2-naphthalenecarboxylate
Hexane washed sodium hydride (3.5 g of 60%, 88 mmole) was covered with 75 ml of tetrahydrofuran and 5.4 ml (64 mmole) of dimethylcarbonate was added in one portion. The solution was heated to reflux and 6-fluoro-3,4-dihydro-1(2H)-naphthlenone (7.2 g, 44 mmole) in 25 ml of tetrahydrofuran was added dropwise while maintaining reflux. After the addition was complete, the reaction was refluxed for 1.5 hours. The reaction was then cooled in an ice bath and 10% aqueous HCl solution was carefully added. The solution was diluted with ether and the aqueous phase was separated and extracted twice with ether. The combined organic phases were dried (MgSO4) and concentrated. The crude product was a pale yellow solid (9.6 g, 98% yield).

reactant | sodium hydride | 88 mmole, 3.5 g | [H-].[Na+]
reactant | dimethylcarbonate | 64 mmole, 5.4 ml | COC(OC)=O | C3H6O3
reactant | 6-fluoro-3,4-dihydro-1(2H)-naphthlenone | 44 mmole, 7.2 g | FC=1C=C2CCCC(C2=CC1)=O | C10H9FO
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | Hexane | CCCCCC | C6H14
product | methyl 6-fluoro-1,2,3,4-tetrahydro-1-oxo-2-naphthalenecarboxylate | 9.6 g, 98% yield | FC=1C=C2CCC(C(C2=CC1)=O)C(=O)OC | C12H11FO3
